US05280039
E. Methyl 4-(5-amino-1-methylindol-3-ylmethyl)-3-methoxybenzoate
A solution of methyl 3-methoxy-4-(1-methyl-5-nitroindol-3-ylmethyl)benzoate (1.5 grams) in 50 mL of tetrahydrofuran was hydrogenated at 40 p.s.i. in the presence of 10% palladium-on-carbon (0.3 grams) for 3 hours. The reaction was filtered and the filtrate evaporated to give 1.5 grams of title compound. NMR (CDCl3) δ:3.35, (broad s, 2H), 3.65 (s, 3H), 3.95 (s, 3H), 4.05 (s, 2H), 6.85 (m, 3H), 7.10 (m, 2H), 7.50 (m, 2H).

reactant | methyl 3-methoxy-4-(1-methyl-5-nitroindol-3-ylmethyl)benzoate | 1.5 grams | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C | C19H18N2O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 0.3 grams | [Pd] | Pd
product | Methyl 4-(5-amino-1-methylindol-3-ylmethyl)-3-methoxybenzoate | 1.5 grams | NC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C19H20N2O3
